Circuito gerador de caos
.include caos_roteado.spi

* INTERF p s vdd vss

Vdd 1 0 DC 1.80001V
Vss 2 0 DC 0.0V
Vp 3 0 PULSE(1.8 0 0 1n 1n 200n 400n)
*Vp 3 0 DC 1.8V
*Vp 3 0 DC 0.0V

X1 3 4 1 2 caos_roteado

.model tp pmos level=54
.model tn nmos level=54

.tran 0.04n 1000n UIC
.end
